US07459480B2
To a mixture under Ar of (4-iodo-phenyl)-morpholin-4-yl-methanone (273 mg), trimethylsilylacetylene (169 mg), [PdCl2(PPh3)2] (30 mg) and copper(i) iodide (15 mg) is added a degassed mixture of THF (4.5 ml) and diisopropylamine (4.5 ml). After stirring over night at 57° C. and aqueous work up, the organic layer is dried over Na2SO4 and the solvent is evaporated. Flash chromatography (silica gel, CH2Cl2/MeOH/25% NH4OH 97:3:0.3) yields 247 mg of morpholin-4-yl-(4-trimethylsilanylethynyl-phenyl)-methanone as a light brown solid, 1H-NMR (300 MHz): 0.26 (s, 3H); 3.32-3.91 (br, 8H); 7.34 (d, J=6.5, 2H); 7.51 (d, J=6.5, 2H).

reactant | (4-iodo-phenyl)-morpholin-4-yl-methanone | 273 mg | IC1=CC=C(C=C1)C(=O)N1CCOCC1 | C11H12INO2
reactant | trimethylsilylacetylene | 169 mg | C[Si](C)(C)C#C | C5H10Si
reactant | diisopropylamine | 4.5 ml | C(C)(C)NC(C)C | C6H15N
catalyst | PdCl2(PPh3)2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(i) iodide | 15 mg | [Cu]I
solvent | THF | 4.5 ml | C1CCOC1 | C4H8O
product | morpholin-4-yl-(4-trimethylsilanylethynyl-phenyl)-methanone | 247 mg | N1(CCOCC1)C(=O)C1=CC=C(C=C1)C#C[Si](C)(C)C | C16H21NO2Si
